US06852867B2
Synthesis of 4-acetoxy-3,5-di-tert-butylanisole
To a solution of 1.50 kg (6.35 mol) of 2,6-di-tert-butyl-4-methoxyphenol and 658 mL (6.98 mol) of acetic anhydride dissolved in 1.2 L of acetonitrile, 3 mL of conc. sulfuric acid was added and the mixture was stirred overnight at room temperature. To the mixture, a great excess of water was added and the resulting solids were filtered and dried. The obtained 4-acetoxy-3,5-di-tert-butylanisole was used in the next reaction without further purification.

reactant | 2,6-di-tert-butyl-4-methoxyphenol | 6.35 mol, 1.50 kg | C(C)(C)(C)C1=C(C(=CC(=C1)OC)C(C)(C)C)O | C15H24O2
reactant | acetic anhydride | 6.98 mol, 658 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | sulfuric acid | 3 mL | S(O)(O)(=O)=O | H2O4S
reactant | water | O | H2O
solvent | acetonitrile | 1.2 L | C(C)#N | C2H3N
product | 4-acetoxy-3,5-di-tert-butylanisole | C(C)(=O)OC1=C(C=C(C=C1C(C)(C)C)OC)C(C)(C)C | C17H26O3
